US08012981B2
1,1-Dimethylethyl 4-[(4-nitrophenyl)methyl]-1-piperazinecarboxylate (D30)
The title compound was prepared from 4-nitrobenzaldehyde and 1,1-dimethylethyl 1-piperazinecarboxylate using a method similar to that described for D21 in Description 21A although the product was purified by column chromatography followed by passing through an SCX column eluting with MeOH then 2M NH3 in MeOH. MS (ES): 266.1, 222.2, no molecular ion (MH+) observed.

reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 1,1-Dimethylethyl 4-[(4-nitrophenyl)methyl]-1-piperazinecarboxylate | [N+](=O)([O-])C1=CC=C(C=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C16H23N3O4
